US04602028
3.70g (9.10 mmol) of ethyl 2-[[3-(4-chlorophenyl)1,2-benzisoxazol-6-yl]sulfonyl]-2-methylpropionate was combined with 50 ml of methanol in a flask. The mixture was heated to reflux and an excess (50 ml) of 10% NaOH was added. Initially after the addition, the solution was clear yellow but after a few minutes a precipitate began to form. After refluxing for about one hour, the mixture was cooled and acidified with dilute HCl. The precipitate was collected and recrystallized from methanol to yield 3.27 g of 2-[[3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]sulfonyl]-2-methylpropionic acid, m.p. 235°-239° C., with decomposition.

reactant | ethyl 2-[[3-(4-chlorophenyl)1,2-benzisoxazol-6-yl]sulfonyl]-2-methylpropionate | 9.10 mmol, 3.70g | ClC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)S(=O)(=O)C(C(=O)OCC)(C)C | C19H18ClNO5S
reactant | NaOH | 50 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 2-[[3-(4-chlorophenyl)-1,2-benzisoxazol-6-yl]sulfonyl]-2-methylpropionic acid | 3.27 g | ClC1=CC=C(C=C1)C1=NOC2=C1C=CC(=C2)S(=O)(=O)C(C(=O)O)(C)C | C17H14ClNO5S
